US03947580
To a solution of 6.6 g. (0.044 mol.) of p-chlorophenylacetonitrile and 20 ml. of dry glyme was added 6.2 g. (0.13 mol.) of sodium hydride (50% in oil). Ethyl 3-cyano-3-phenylpyruvate (9.55 g., 0.044 mol.) was added in portions at -10° and the reaction mixture was stirred at 25° for 12 hours. The mixture was diluted with 150 ml. of water, extracted with ether, acidified with 15 ml. of acetic acid and the solid was collected by filtration to yield 2-(p-chloro-phenyl)-5-phenyl-3,4-dioxoadiponitrile, m.p. 210° (dec.).

reactant | p-chlorophenylacetonitrile | 0.044 mol | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | sodium hydride | 0.13 mol | [H-].[Na+]
reactant | Ethyl 3-cyano-3-phenylpyruvate | 0.044 mol, 9.55 g | C(#N)C(C(C(=O)OCC)=O)C1=CC=CC=C1 | C12H11NO3
solvent | glyme | C(OC)COC | C4H10O2
product | 2-(p-chloro-phenyl)-5-phenyl-3,4-dioxoadiponitrile | ClC1=CC=C(C=C1)C(C#N)C(C(C(C#N)C1=CC=CC=C1)=O)=O | C18H11ClN2O2
